US20010036946A1
b) 1-(4-pyrimidinyl)piperazine
A solution of 7.4 g (0.0256 mol) of 1-(2-chloro-4-pyrimidinyl)-4-(phenylmethyl)piperazine in 100 ml of ethanol was hydrogenated in the presence of 2 g of 100 palladium/charcoal for 4 hours at 40° C. under 5 bar of hydrogen pressure. The crude product obtained after conventional working up was purified by column chromatography over silica gel (30-60 Am) using FM1/cyclohexane 9/1 (v/v) as eluant. Colourless crystals, Rf=0.3 (FM1/cyclohexane 9/1 (v/v)); Macherey-Nagel POLYGRAM® SIL G/UV254, ready-made films for TLC). Yield: 1.7 g (40.7i of theory).

reactant | 1-(2-chloro-4-pyrimidinyl)-4-(phenylmethyl)piperazine | 0.0256 mol, 7.4 g | ClC1=NC=CC(=N1)N1CCN(CC1)CC1=CC=CC=C1 | C15H17ClN4
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | palladium/charcoal | [Pd] | Pd
product | 1-(4-pyrimidinyl)piperazine | N1=CN=C(C=C1)N1CCNCC1 | C8H12N4
